US04235774
(a) 2-(2-Oxo-3-methylsulfonyl-imidazolidin-1-yl-carbonylamino)-2-(2-benzyloxycarbonylamino-thiazol-4-yl) acetic acid
The compound is prepared analogously to Example 6 (a) from 15 g of α-amino-α-(2-benzyloxycarbonylamino-thiazol-4-yl)-acetic acid dihydrate in THF/water (1:1) and 10.9 g 1-chlorocarbonyl-2-oxo-3-methylsulfonyl-imidazolidine in a pH-range from 7.5 to 8.0. 14.1 g (65% of theory) are obtained.

reactant | α-amino-α-(2-benzyloxycarbonylamino-thiazol-4-yl)-acetic acid dihydrate | 15 g | O.O.NC(C(=O)O)C=1N=C(SC1)NC(=O)OCC1=CC=CC=C1
reactant | 1-chlorocarbonyl-2-oxo-3-methylsulfonyl-imidazolidine | 10.9 g | ClC(=O)N1C(N(CC1)S(=O)(=O)C)=O | C5H7ClN2O4S
solvent | THF water | C1CCOC1.O
product | 2-(2-Oxo-3-methylsulfonyl-imidazolidin-1-yl-carbonylamino)-2-(2-benzyloxycarbonylamino-thiazol-4-yl) acetic acid | O=C1N(CCN1S(=O)(=O)C)C(=O)NC(C(=O)O)C=1N=C(SC1)NC(=O)OCC1=CC=CC=C1 | C18H19N5O8S2
